US09226923B2
To a solution of 4-bromopyrazole (111 mg, 0.755 mmol) in DMF (dry, 2.5 mL) was added NaH (60 wt % in oil, 33 mg, 0.82 mmol) in portions at 0° C. under N2. The mixture was stirred at 0° C. for 15 min, the ice-bath was removed. The mixture was stirred at room temperature for 90 min. tert-butyl 6-((methylsulfonyl)oxy)-2-azaspiro[3.3]heptane-2-carboxylate (200 mg, 0.686 mmol) was added in one portion. The mixture was stirred at room temperature for 1 h, then 80° C. for 18 hrs. The mixture was concentrated in vacuo to give the residue which was dissolved in DCM (30 mL). A saturated solution of NH4Cl (30 mL) was added. The layers were separated. The aqueous phase was extracted with DCM (2×30 mL). The combined organic phase was dried over anhydrous Na2SO4 and then concentrated to give the crude residue which was purified by CombiFlash (40 g silica gel column, Hexane/EtOAc) to afford tert-butyl 6-(4-bromo-1H-pyrazol-1-yl)-2-azaspiro[3.3]heptane-2-carboxylate (74 mg, 31%) as a white solid.

reactant | 4-bromopyrazole | 0.755 mmol, 111 mg | BrC=1C=NNC1 | C3H3BrN2
reactant | NaH | 0.82 mmol, 33 mg | [H-].[Na+]
reactant | tert-butyl 6-((methylsulfonyl)oxy)-2-azaspiro[3.3]heptane-2-carboxylate | 0.686 mmol, 200 mg | CS(=O)(=O)OC1CC2(CN(C2)C(=O)OC(C)(C)C)C1 | C12H21NO5S
reactant | NH4Cl | 30 mL | [NH4+].[Cl-]
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 6-(4-bromo-1H-pyrazol-1-yl)-2-azaspiro[3.3]heptane-2-carboxylate | 74 mg, 31% | BrC=1C=NN(C1)C1CC2(CN(C2)C(=O)OC(C)(C)C)C1 | C14H20BrN3O2
